US07273936B2
To a −78° C. solution of 5-benzo[1,3]dioxol-5-yl-oxazole (670 mg, 3.54 mmol) in dimethylformamide (5 mL) was slowly added lithium bis(trimethylsilyl)amide(3.54 mL, 1 M in THF, 3.54 mmol, 1 equiv). The reaction mixture was stirred under nitrogen atmosphere for 1 hour at −78° C., and then treated slowly with a solution of N-bromosuccinamide (630 mg, 3.54 mmol, 1 equiv) in dimethylformamide (2 mL). The resulting reaction mixture was stirred at −78° C. for 1 hour, warmed to ambient temperature and poured into a mixture methylene chloride and 1 N aqueous sodium hydroxide. The aqueous layer was exctracted with methylene chloride, and the combined organics were washed with 1 N aqueous sodium hydroxide and brine, then dried over magnesium sulfate and concentrated in vacuo to provide 5-benzo[1,3]dioxol-5-yl-4-bromo-oxazole (853 mg, 90%).

reactant | 5-benzo[1,3]dioxol-5-yl-oxazole | 3.54 mmol, 670 mg | O1COC2=C1C=CC(=C2)C2=CN=CO2 | C10H7NO3
reactant | lithium bis(trimethylsilyl)amide | 3.54 mmol, 1 M, 3.54 mL, 1 equiv | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | N-bromosuccinamide | 3.54 mmol, 630 mg, 1 equiv | BrNC(CCC(=O)N)=O | C4H7BrN2O2
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 5-benzo[1,3]dioxol-5-yl-4-bromo-oxazole | 853 mg, 90% | O1COC2=C1C=CC(=C2)C2=C(N=CO2)Br | C10H6BrNO3
